US07199105B2
Preparation of 1-(2-Hydroxy-ethyl)-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
DIEA (0.1 mL, 0.57 mmol) and liquid ethylene oxide (3 mL) were added to a stirred solution of crude 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide, prepared as in Example 10 (237.4 mg), in anhydrous methanol (10 mL), at 0° C. and under nitrogen. The resulting solution was stirred at −4° C. for 18 h and evaporated to dryness. The residue obtained was purified by chromatography over silica gel with an eluent of 5% methanolic ammonia in dichloromethane. The desired fractions were evaporated and the residue lyophilized (deuterium oxide/anhydrous acetonitrile, 1:1, v/v, 10 mL) to furnish the title compound as a fluffy white powder (50.1 mg, 30.2%); TLC, Rf=0.68 (14% methanolic ammonia in dichloromethane); 1H NMR (300 MHz) δ 5.40 (d, J=5.8, 1), 4.55 (m, 1), 4.24 (s, 1), 4.17–4.11 (m, 1), 3.99–3.89 (m, 4), 3.69–3.65 (m, 1), 3.47 (d, J=4.4, 2), 3.01 (m, 1), 2.33 (br s, 4), 2.18 (s, 4), 1.57–1.32 (m, 9), 0.94–0.87 (m, 9).

reactant | DIEA | 0.57 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylene oxide | 3 mL | C1CO1 | C2H4O
reactant | 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCC(C1)CCCCC)C | C20H38N2O5S
solvent | methanol | 10 mL | CO | CH4O
product | 1-(2-Hydroxy-ethyl)-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 50.1 mg, 30.2% | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CC(C1)CCCCC)CCO)C | C22H42N2O6S
